US08293737B2
A mixture of N-(2,3-dihydro-1H-inden-2-yl)-5-nitropyridin-2-amine (5.5 g) and Raney Nickel (50 mg) was stirred in DMF (30 ml) under hydrogen overnight. The reaction mixture was filtered through celite and the solvent removed in vacuo, giving as a residue crude N2-(2,3-dihydro-1H-inden-2-yl)pyridine-2,5-diamine, which was on-reacted without further characterization other than ascertaining that the compound was one spot by tlc with the expected molecular weight (M+1) of 226.

reactant | N-(2,3-dihydro-1H-inden-2-yl)-5-nitropyridin-2-amine | 5.5 g | C1C(CC2=CC=CC=C12)NC1=NC=C(C=C1)[N+](=O)[O-] | C14H13N3O2
catalyst | Raney Nickel | 50 mg | [Ni] | Ni
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | N2-(2,3-dihydro-1H-inden-2-yl)pyridine-2,5-diamine | C1C(CC2=CC=CC=C12)NC1=NC=C(C=C1)N | C14H15N3
